US08859611B2
To a solution of diisopropylamine (1.3 g, 12.5 mmol) in 15 mL of anhydrous THF was added n-BuLi (4.0 mL, 2.5 M in hexane) at −78° C. After the mixture was stirred at −78° C. for 0.5 h 3,4-dibromothiophene (2 g, 8.3 mmol) in anhydrous THF (20 mL) was added. The mixture was stirred at −78° C. for 15 min., a solution of DMF (670 mg, 9.2 mmol) in THF (5 mL) was added. After being stirred at this temperature for 0.5 h, the mixture was stirred at room temperature for 2 hours. The mixture was quenched with NH4Cl saturated solution, diluted with water, extracted with EtOAc, concentrated, and purified by column chromatography to give 3,4-dibromothiophene-2-carbaldehyde (1.0 g, yield 45%).

reactant | diisopropylamine | 12.5 mmol, 1.3 g | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 2.5 M, 4.0 mL | [Li]CCCC
reactant | 3,4-dibromothiophene | 8.3 mmol, 2 g | BrC1=CSC=C1Br | C4H2Br2S
reactant | DMF | 9.2 mmol, 670 mg | CN(C)C=O | C3H7NO
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3,4-dibromothiophene-2-carbaldehyde | 1.0 g, yield 45% | BrC1=C(SC=C1Br)C=O | C5H2Br2OS
